US05962458
4-Chloro-2-fluoroaniline (77 mg, 0.53 mmol) was added to a solution of 4-chloro-6-methoxy-7-(2-(N-methyl-N-(6-methylpyrimidin-4-yl)amino)ethoxy)quinazoline hydrochloride (140 mg, 0.35 mmol) in isopropanol (5 ml) and the mixture heated at reflux for 1 hour. The solvent was removed by evaporation and the residue was partitioned between ethyl acetate and saturated aqueous sodium hydrogen carbonate solution. The organic layer was separated, washed with brine, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by flash chromatography eluting with methylene chloride/methanol (95/5). The purified solid was dissolved in methylene chloride/methanol and ethereal hydrogen chloride (1 ml of a 5M solution) was added. The volatiles were removed by evaporation, the residue was triturated with ether, collected by filtration, washed with ether and dried under vacuum to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(N-methyl-N-(6-methylpyrimidin-4-yl)amino)ethoxy)quinazoline hydrochloride (75 mg, 39%).

reactant | 4-Chloro-2-fluoroaniline | 0.53 mmol, 77 mg | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
reactant | 4-chloro-6-methoxy-7-(2-(N-methyl-N-(6-methylpyrimidin-4-yl)amino)ethoxy)quinazoline hydrochloride | 0.35 mmol, 140 mg | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)OCCN(C1=NC=NC(=C1)C)C
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(N-methyl-N-(6-methylpyrimidin-4-yl)amino)ethoxy)quinazoline hydrochloride | 75 mg, 39% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCN(C2=NC=NC(=C2)C)C)C=C1)F | InChI=1S/C23H22ClFN6O2.ClH/c1-14-8-22(28-12-26-14)31(2)6-7-33-21-11-19-16(10-20(21)32-3)23(29-13-27-19)30-18-5-4-15(24)9-17(18)25;/h4-5,8-13H,6-7H2,1-3H3,(H,27,29,30);1H
